US08071624B2
Step 2. (3S)-N-Cyclohexyl-1-phenylpiperidine-3-carboxamide
A mixture of bromobenzene (13 μL, 0.00012 mol), (3S)-N-cyclohexylpiperidine-3-carboxamide trifluoroacetate (40 mg, 0.0001 mol), sodium tert-butoxide (28 mg, 0.00030 mol), palladium acetate (0.8 mg, 0.000004 mol) and 2-(di-tert-butylphosphino)biphenyl (1 mg, 0.000004 mol) was vacuumed and charged with nitrogen. To the mixture was added 1,4-dioxane (1 mL, 0.01 mol) and the resulting mixture was refluxed overnight. After cooling, the mixture to ambient temperature the inorganics were filtered and the filtrate was adjusted with TFA to pH=7.0. The crude product was chromatographed by combiflash (ethyl acetate in hexanes: 60%) to afford the desired product. LCMS: m/z 287.3 (M+H)+.

reactant | bromobenzene | 0.00012 mol, 13 μL | BrC1=CC=CC=C1 | C6H5Br
reactant | (3S)-N-cyclohexylpiperidine-3-carboxamide trifluoroacetate | 0.0001 mol, 40 mg | FC(C(=O)O)(F)F.C1(CCCCC1)NC(=O)[C@@H]1CNCCC1
reactant | sodium tert-butoxide | 0.00030 mol, 28 mg | CC(C)([O-])C.[Na+]
reactant | 2-(di-tert-butylphosphino)biphenyl | 0.000004 mol, 1 mg | C(C)(C)(C)P(C1=C(C=CC=C1)C1=CC=CC=C1)C(C)(C)C | C20H27P
reactant | 1,4-dioxane | 0.01 mol, 1 mL | O1CCOCC1 | C4H8O2
catalyst | palladium acetate | 0.000004 mol, 0.8 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | (3S)-N-Cyclohexyl-1-phenylpiperidine-3-carboxamide | C1(CCCCC1)NC(=O)[C@@H]1CN(CCC1)C1=CC=CC=C1 | C18H26N2O
